US09290441B2
Likewise, refluxing a toluene solution containing one equivalent of hexyl hexanoate, 2 equivalents of cyclohexanol and 1 mol % of the PNN complex 1 under argon atmosphere for 20 h resulted in 84% conversion of hexyl hexanoate as determined by GC analysis, with the exclusive formation of the ester cyclohexyl hexanoate in 83% yield (Table 8, entry 2). Notably, unlike the traditional transesterification methods, this reaction does not form an alcohol product; rather, an irreversible incorporation of both the acyl and alkoxo parts of the starting ester into the product ester takes place. While 2 equivalents of the alcohol with respect to the ester are sufficient, somewhat higher yields are obtained when 3 equivalents of alcohol were used. Thus, reaction of 3 equivalents of cyclohexanol with hexyl hexanoate resulted after 26 h in 96% conversion with 95% yield of cyclohexyl hexanoate, as observed by GC, and confirmed by GC-MS by comparison with an authentic sample (Table 8, entry 3). The pure product was isolated by evaporation of the solvent followed by passing through a basic alumina plug and analysis by NMR and GC-MS. Use of the PNP complexes 2 or 3 resulted after 20 h in 58% or 17% yield of cyclohexyl hexanoate, respectively. Studying the scope of this new reaction with regard to the secondary alcohol, reaction of hexyl hexanoate with cyclopentanol in the presence of 1 mol % 1 was carried out. After 26 h reflux in toluene, cyclopentyl hexanoate (70% yield) was formed, with 71% conversion of hexyl hexanoate (Table 8, entry 4). Similarly, upon reaction of hexyl hexanoate with excess of 1-phenylethanol, 50% conversion of hexyl hexanoate with the formation of 49% of the acylated product was observed (Table 8, entry 5). The lower conversion of the ester is a result of facile dehydrogenation of 1-phenylethanol to acetophenone (49%). Because of the expected easy dehydrogenation of the isopropyl alcohol to acetone, transesterification with this alcohol was performed in a closed vessel, to retard this dehydrogenation process. Thus, heating hexyl hexanoate with excess of isopropyl alcohol resulted after 19 h in 83% conversion of hexyl hexanoate with the formation of isopropyl hexanoate in 67% yield (entry 6). The reaction of hexyl hexanoate and 3-pentanol led to 91% conversion of the ester with formation of 3-pentyl hexanoate in 90% yield after 26 h reflux (entry 7).

reactant | hexyl hexanoate | C(CCCCC)(=O)OCCCCCC | C12H24O2
reactant | cyclopentanol | C1(CCCC1)O | C5H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | cyclopentyl hexanoate | 70% yield | C(CCCCC)(=O)OC1CCCC1 | C11H20O2
